US08937071B2
A solution of N-(4-(3-((tert-butyldimethylsilyl)oxy)-2,2-dimethylpropyl)-3-(trifluoro methyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-3-fluorophenyl)acetamide (100 mg, 0.132 mmol) in HCl (MeOH, 5 mL, 20.00 mmol) was stirred at 20° C. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The crude product was purified by preparative HPLC to yield a white solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-3-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (37.98 mg, 0.073 mmol, 55.1% yield): 1H NMR (400 MHz, CD3OD) 7.94 (d, J=2.2 Hz, 1H), 7.70 (dd, J=2.0, 8.4 Hz, 1H), 7.51-7.45 (m, 1H), 7.45-7.37 (m, 3H), 7.28-7.21 (m, 2H), 4.15 (m, 2H), 3.75 (s, 2H), 3.29 (broad s, 2H), 2.77 (s, 2H), 1.46 (t, J=6.9 Hz, 3H), 0.82 (s, 6H); ES-LCMS m/z 521.2 (M+H).

reactant | N-(4-(3-((tert-butyldimethylsilyl)oxy)-2,2-dimethylpropyl)-3-(trifluoro methyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-3-fluorophenyl)acetamide | 0.132 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OCC(CC1=C(C=C(C=C1)NC(CC1=CC(=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F)(C)C | C41H50F4N2O5Si
reactant | HCl | 20.00 mmol, 5 mL | Cl | ClH
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-3-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 0.073 mmol, 37.98 mg, 55.1% yield | C(C)OC1=CC(=CNC1=O)C1=C(C=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F)F | C27H28F4N2O4
